US05554624
Diethyl (4-methylphenyl)methylidenemalonate
A mixture of 19.6 mL (166.4 mmol) of p-tolualdehyde, 23.8 mL (158.8 mmol) of diethyl malonate, 0.5 mL of piperidine and 50 mL of benzene was heated at reflux for 18 h using a Dean-Stark water separator. The mixture was allowed to cool to room temperature, benzene was added and it was washed with water (2×), 1N HCl (2×) and NaHCO3. The aqueous phase was extracted with ethyl acetate, the organic phase was dried and the solvent was removed, to yield 41.2 g of the desired product (yield: 99%).

reactant | p-tolualdehyde | 166.4 mmol, 19.6 mL | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | diethyl malonate | 158.8 mmol, 23.8 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | Diethyl (4-methylphenyl)methylidenemalonate | 41.2 g, yield: 99% | CC1=CC=C(C=C1)C=C(C(=O)OCC)C(=O)OCC | C15H18O4
